US05710173
Reaction of 2-nitrothiophen-5-carboxaldehyde and thien-2-ylsulfonylacetonitrile as in Example 1 gave (E)-3-(2-nitrothien-5-yl)-2-(thien-2-ylsulfonyl)acrylonitrile

reactant | 2-nitrothiophen-5-carboxaldehyde | [N+](=O)([O-])C=1SC(=CC1)C=O | C5H3NO3S
reactant | thien-2-ylsulfonylacetonitrile | S1C(=CC=C1)S(=O)(=O)CC#N | C6H5NO2S2
product | (E)-3-(2-nitrothien-5-yl)-2-(thien-2-ylsulfonyl)acrylonitrile | [N+](=O)([O-])C=1SC(=CC1)/C=C(\C#N)/S(=O)(=O)C=1SC=CC1 | C11H6N2O4S3
